US07402581B2
5-Acetylindane (6.3 g, 39 mmol) was dissolved in CH2Cl2 (150 mL) whereupon aluminium chloride (13.0 g, 97 mmol) was added during one minute and a vigorous generation of HCl gas was observed, which was conducted away by means of a tube. The mixture was stirred at room temperature for 5 min and then bromine (9.0 g, 56 mmol), dissolved in CH2Cl2 (50 mL) was added during 2 min. Additional stirring at room temperature for 2 h was followed by pouring the reaction mixture over ice (200 g). The flask was washed with additional CH2Cl2 (100 mL). The organic solution was washed twice with brine, dried and then the solvent was evaporated. There was obtained 8.8 g (93%) of 1-(7-bromo-2,3-dihydro-1H-inden-5-yl)ethanone as a solid material. 1H NMR (300 MHz, CDCl3): 2.1-2.2 (q, 2H), 2.6 (s, 3H), 2.9 (t, 2H), 3.1 (t, 2H), 7.7 (s, 1H), 7.9 (s, 1H).

reactant | 5-Acetylindane | 39 mmol, 6.3 g | C(C)(=O)C=1C=C2CCCC2=CC1 | C11H12O
reactant | aluminium chloride | 97 mmol, 13.0 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | bromine | 56 mmol, 9.0 g | BrBr | Br2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(7-bromo-2,3-dihydro-1H-inden-5-yl)ethanone | 8.8 g, 93% | BrC=1C=C(C=C2CCCC12)C(C)=O | C11H11BrO
